US06218405B1
A stirred solution of 4-(aminomethyl)-1-(tert-butoxycarbonyl)piperidine (5.20 g) in dichloromethane (100 ml) was treated with triethylamine (5.31 g) and then 4-acetamidobenzenesulphonyl chloride (6.07 g) was added in small portions. The mixture was stirred at room temperature for 4 hours and then left to stand for 72 hours. The mixture was poured into water (200 ml) and extracted with dichloromethane (150 ml). The organic solution was washed with hydrochloric acid (1M;100 ml) which led to precipitation of a pale-yellow solid. The solid was collected by filtration, dissolved in industrial methylated spirit (300 ml), dried over sodium sulphate and evaporated under reduced pressure to give N-{[4-acetamido-1-(tert-butoxycarbonyl)-4-piperidyl]methyl}benzenesulphonamide (3.72 g) as a pale-yellow solid, m.p. 226-7° C.

reactant | 4-(aminomethyl)-1-(tert-butoxycarbonyl)piperidine | 5.20 g | NCC1CCN(CC1)C(=O)OC(C)(C)C | C11H22N2O2
reactant | triethylamine | 5.31 g | C(C)N(CC)CC | C6H15N
reactant | 4-acetamidobenzenesulphonyl chloride | 6.07 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-{[4-acetamido-1-(tert-butoxycarbonyl)-4-piperidyl]methyl}benzenesulphonamide | 3.72 g | C(C)(=O)NC1(CCN(CC1)C(=O)OC(C)(C)C)CNS(=O)(=O)C1=CC=CC=C1 | C19H29N3O5S
